US09023847B2
178. 5-Methyl-3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid 3-chloro-benzylamide
The title compound was prepared in an analogous manner as 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid 3-chloro-benzylamide using 5-methyl-3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid methyl ester instead of 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid methyl ester and obtained in 50% yield (HPLC: 98%, RT: 3.85 min). 1H NMR (DMSO-d6) 11.98 (br s, 1H), 11.39 (s, 1H), 8.68 (t, J=6.0 Hz, 1H), 8.39 (s, 1H), 8.28 (d, J=1.1 Hz, 1H), 7.40-7.28 (m, 5H), 6.41 (dd, J=3.3, 1.8 Hz, 1H), 4.48 (d, J=5.9 Hz, 2H), 2.55 (s, 3H); MS (m/z) 398 [M+H]+ (35Cl).

reactant | 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid 3-chloro-benzylamide | ClC=1C=C(CNC(=O)C=2SC=CC2NC=2C3=C(N=CN2)NC=C3)C=CC1 | C18H14ClN5OS
reactant | 5-methyl-3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1NC=1C2=C(N=CN1)NC=C2)C | C13H12N4O2S
product | 5-Methyl-3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid 3-chloro-benzylamide | 50% yield | ClC=1C=C(CNC(=O)C=2SC(=CC2NC=2C3=C(N=CN2)NC=C3)C)C=CC1 | C19H16ClN5OS
